US09303020B2
Preparation of 2-(5-chloro-4-fluoro-2-(4-fluorophenyl)benzofuran-3-yl)-4,5-dihydro-1H-imidazole.
A mixture of 5-chloro-4-fluoro-2-(4-fluorophenyl)benzofuran-3-carbaldehyde (1.2 g, 4.10 mmol) and ethylenediamine (0.277 m, 4.10 mmol) in t-BuOH (15 ml) under a N2 atmosphere in a 50 ml RB flask was stirred at room temperature for 30 minutes. Potassium carbonate (0.567 g, 4.10 mmol) followed by iodine (1.041 g, 4.10 mmol) were then added and the reaction mixture was heated at 70° C. for 2 hours. The solvent was removed and the residue diluted with ethyl acetate. The mixture was washed with 10% sodium thiosulfate solution. The organic layer was dried over Na2SO4, filtered and concentrated. The crude product was purified by using combiflash silica column using 8% methanol in chloroform as an eluent. The desired fractions were collected and concentrated to give the titled product (0.7 g, 52%). 1H NMR (400 MHz, CDCl3): δ 7.77-7.75 (m, 2H), 7.37-7.34 (m, 1H), 7.27-7.16 (m, 3H), 3.90 (s, 4H).

reactant | 5-chloro-4-fluoro-2-(4-fluorophenyl)benzofuran-3-carbaldehyde | 4.10 mmol, 1.2 g | ClC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C=O)C1F | C15H7ClF2O2
reactant | ethylenediamine | 4.10 mmol | C(CN)N | C2H8N2
reactant | Potassium carbonate | 4.10 mmol, 0.567 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodine | 4.10 mmol, 1.041 g | II | I2
solvent | t-BuOH | 15 ml | CC(C)(C)O | C4H10O
product | 2-(5-chloro-4-fluoro-2-(4-fluorophenyl)benzofuran-3-yl)-4,5-dihydro-1H-imidazole | 0.7 g, 52% | ClC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C=2NCCN2)C1F | C17H11ClF2N2O
